US06048880
7,7-Dimethyl-3-phenyl-4-oxo-4,5,6,7-tetrahydrobenzofuran (step 1)
The subtitle compound was prepared according to the procedure of example 2 using hydroxyacetophenone instead of acetol and 4,4-dimethyl-1,3-cyclohexanedione instead of 1,3-cyclohexanedione in step1.

reactant | hydroxyacetophenone | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | 4,4-dimethyl-1,3-cyclohexanedione | CC1(C(CC(CC1)=O)=O)C | C8H12O2
product | 7,7-Dimethyl-3-phenyl-4-oxo-4,5,6,7-tetrahydrobenzofuran | CC1(CCC(C=2C(=COC21)C2=CC=CC=C2)=O)C | C16H16O2
